US04472425
EXAMPLE 7: 2-Methoxy-N-(2,4-dimethylthien-3-yl)-N-(1,2-pentadien-4-yl)-acetamide (process e)
To a solution of 10.0 g (0.04 mol) 2-methoxy-N-(2,4-dimethylthien-3-yl)-N-(1-butin-3-yl)acetamide in 80 ml dioxan are added 1.92 g (0.064 mol) paraformaldehyde, 4.85 g (0.048 mol) diisopropylamine and 1.89 g cuprous bromide and the mixture heated to reflux for 6 hours. The mixture is cooled to room temperature, filtered, evaporated in vacuo, the residue partitioned between ethylacetate and 1 M aqueous citric acid solution, the organic phase separated, washed subsequently with a saturated aqueous NaHCO3 -solution, water, is dried over MgSO4 and the solvent evaporated in vacuo.

reactant | 2-methoxy-N-(2,4-dimethylthien-3-yl)-N-(1-butin-3-yl)acetamide | 0.04 mol, 10.0 g | COCC(=O)N(C(C#C)C)C1=C(SC=C1C)C | C13H17NO2S
reactant | paraformaldehyde | 0.064 mol, 1.92 g | C=O | CH2O
reactant | diisopropylamine | 0.048 mol, 4.85 g | C(C)(C)NC(C)C | C6H15N
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | 2-Methoxy-N-(2,4-dimethylthien-3-yl)-N-(1,2-pentadien-4-yl)-acetamide | COCC(=O)N(C(C=C=C)C)C1=C(SC=C1C)C | C14H19NO2S
